US04393210
Then, 14.2 g of ethyl p-chlorophenyl-(α-formyl)acetate and 6.5 g of urethane were added to 50 ml of toluene containing 0.3 ml of concentrated sulfuric acid, and the mixture was heated at reflux while distilling out water which was formed during the reaction until no further water was distilled out. Thereafter, the solvent was distilled off, and the residue was extracted with diethyl ether while hot. The solvent was distilled off from the extract to obtain 13.7 g of ethyl p-chlorophenyl-(α-ethoxycarbonylaminomethylene)acetate having a melting point of 72° C.

reactant | ethyl p-chlorophenyl-(α-formyl)acetate | 14.2 g | ClC1=CC=C(C=C1)C(C(=O)OCC)C=O | C11H11ClO3
reactant | urethane | 6.5 g | NC(=O)OCC | C3H7NO2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl p-chlorophenyl-(α-ethoxycarbonylaminomethylene)acetate | 13.7 g | ClC1=CC=C(C=C1)C(C(=O)OCC)=CNC(=O)OCC | C14H16ClNO4
